US20010021718A1
(3R)-6-Cyclohexyl-3-(3-isopropyl-1,2,4-oxadiazol-5-yl)hexanoic acid
tert-Butyl (3R)-6-cyclohexyl-3-(3-isopropyl-1,2,4-oxadiazol-5-yl)hexanoate (Preparation 46) (250 mg, 0.69 mmol) was treated with trifluoroacetic acid (5 ml) and the resulting mixture was stirred at room temperature under a nitrogen atmosphere for 45 minutes. The solvent was removed under reduced pressure and the residue azeotroped from toluene then dichloromethane to afford the title compound as a white solid (220 mg).

reactant | tert-Butyl (3R)-6-cyclohexyl-3-(3-isopropyl-1,2,4-oxadiazol-5-yl)hexanoate | 0.69 mmol, 250 mg | C1(CCCCC1)CCC[C@H](CC(=O)OC(C)(C)C)C1=NC(=NO1)C(C)C | C21H36N2O3
reactant | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (3R)-6-Cyclohexyl-3-(3-isopropyl-1,2,4-oxadiazol-5-yl)hexanoic acid | 220 mg | C1(CCCCC1)CCC[C@H](CC(=O)O)C1=NC(=NO1)C(C)C | C17H28N2O3
